US07605272B2
(E)-2-[2-(1H-indazol-3-yl)vinyl]-N-hydroxybenzamidine (0.17 g, 0.60 mmol) was dissolved in pyridine (5.0 mL) and ethyloxalyl chloride (0.12 mL, 1.1 mmol) was added thereto, followed by stirring at 90° C. for 2 hours. Methanol and 2 mol/L aqueous sodium hydroxide solution were added to the mixture and the organic layer was extracted with ethyl acetate. The aqueous layer was neutralized by 6 mol/L hydrochloric acid and the precipitated solid was collected by filtration and then dried. The obtained solid was triturated in ethanol to obtain (E)-3-{2-[2-(1H-indazol-3-yl)vinyl]phenyl}[1,2,4]oxadiazole-5-carboxylic acid (0.12 g, 50%).

reactant | (E)-2-[2-(1H-indazol-3-yl)vinyl]-N-hydroxybenzamidine | 0.60 mmol, 0.17 g | N1N=C(C2=CC=CC=C12)C=CC1=C(/C(=N\[H])/NO)C=CC=C1 | C16H14N4O
reactant | ethyloxalyl chloride | 1.1 mmol, 0.12 mL | CCC(=O)C(=O)Cl | C4H5ClO2
reactant | Methanol | CO | CH4O
reactant | sodium hydroxide | 2 mol/L | [OH-].[Na+]
solvent | pyridine | 5.0 mL | N1=CC=CC=C1 | C5H5N
product | (E)-3-{2-[2-(1H-indazol-3-yl)vinyl]phenyl}[1,2,4]oxadiazole-5-carboxylic acid | 0.12 g, 50% | N1N=C(C2=CC=CC=C12)/C=C/C1=C(C=CC=C1)C1=NOC(=N1)C(=O)O | C18H12N4O3
